US06693217B2
1-[3-(4-Chlorophenoxy)propyloxy]-5-isopropylbiguanide Dihydrochloride
1-[3-(4-Chlorophenoxy)propyloxy]-5-isopropylbiguanide hemisuccinate A mixture of 3.278 g (10 mmoles) of 1-[3(4-Chlorophenoxy)propyloxy-5-isopropylbiguanide and 0.594 (5.0 mmoles) of succinic acid were dissolved in 7 mL of hot ethanol and 11 mL of water was added dropwise with heating. The solution was allowed to cool to room temperature. The precipitate was collected, washed with 4 mL of ice-cold 50% ethanol and dried at 105° C. for 2 hours to yield 3.65 g (94.3%) of product mp 149-5-150° C. 1H-NMR(DMSO-d6) δ1.05 (d, 6H), 2.0 (m, 2H), 3.75-4.10 (m, 5H), 5.45 (br s, 2H), 6.0 (br s, 1H), 6.8-7.2 (m, 4H), 7.35 (s, br, 4H).

reactant | 1-[3-(4-Chlorophenoxy)propyloxy]-5-isopropylbiguanide hemisuccinate | C(CCC(=O)O)(=O)O.ClC1=CC=C(OCCCONC(=N)NC(=N)NC(C)C)C=C1.ClC1=CC=C(OCCCONC(=N)NC(=N)NC(C)C)C=C1
reactant | 3(4-Chlorophenoxy)propyloxy-5-isopropylbiguanide | ClC1=CC=C(OCCCONC(=N)NC(=N)NC(C)C)C=C1 | C14H22ClN5O2
reactant | succinic acid | C(CCC(=O)O)(=O)O | C4H6O4
reactant | water | 11 mL | O | H2O
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 1-[3-(4-Chlorophenoxy)propyloxy]-5-isopropylbiguanide Dihydrochloride | 3.65 g, 94.3% | Cl.Cl.ClC1=CC=C(OCCCONC(=N)NC(=N)NC(C)C)C=C1 | InChI=1S/C14H22ClN5O2.2ClH/c1-10(2)18-13(16)19-14(17)20-22-9-3-8-21-12-6-4-11(15)5-7-12;;/h4-7,10H,3,8-9H2,1-2H3,(H5,16,17,18,19,20);2*1H
